US07241785B2
A mixture of ethyl 3-(3-hydroxy-1-phenyl-1H-pyrazol-4-yl)propionate (0.40 g), 4-(4-chloromethyl-2-methoxyphenoxymethyl)-2-(2-furyl)-5-methyloxazole (0.57 g), potassium carbonate (276 mg) and N,N-dimethylformamide (10 ml) was stirred at 60° C. for 4 hrs. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and ethyl 3-[3-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-3-methoxybenzyloxy]-1-phenyl-1H-pyrazol-4-yl]propionate (420 mg, yield 44%) was obtained as colorless crystals-from a fraction eluted with ethyl acetate-hexane (1:2, volume ratio). The crystals were recrystallized from ethyl acetate-hexane. melting point: 97–98° C.

reactant | ethyl 3-(3-hydroxy-1-phenyl-1H-pyrazol-4-yl)propionate | 0.40 g | OC1=NN(C=C1CCC(=O)OCC)C1=CC=CC=C1 | C14H16N2O3
reactant | 4-(4-chloromethyl-2-methoxyphenoxymethyl)-2-(2-furyl)-5-methyloxazole | 0.57 g | ClCC1=CC(=C(OCC=2N=C(OC2C)C=2OC=CC2)C=C1)OC | C17H16ClNO4
reactant | potassium carbonate | 276 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 3-[3-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-3-methoxybenzyloxy]-1-phenyl-1H-pyrazol-4-yl]propionate | 420 mg, yield 44% | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C=C2CCC(=O)OCC)C2=CC=CC=C2)C=C1)OC)C | C31H31N3O7
